US05378244
75 ml of toluene was added to 7.5 g of sodium hydride (60% in oil), and the mixture was cooled to 0° C., and 70 ml of ethylene glycol was added thereto over the course of 30 minutes. To the obtained solution was added 25.0 g (120 mmol) of 2-chloro-3,5-dinitropyridine, the temperature was raised to room temperature, and the mixture was stirred for 15 minutes. The resulting solution was added to 200 ml of a saturated aqueous ammonium chloride solution, and the resulting mixture was extracted with 200 ml of ethyl acetate. Washing the ethyl acetate extract with saturated saline, drying over anhydrous sodium sulfate, filtering and distilling under reduced pressure (bath temp. 40°-60° C., 40°-20mmHg) yielded yellow crystals, which were recrystallized from ethanol to obtain 23.2g (101 mmol) of 2-(3,5-dinitro-2-pyridyloxy)ethanol as pale yellow crystals (yield: 82%).

reactant | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium hydride | 7.5 g | [H-].[Na+]
reactant | 2-chloro-3,5-dinitropyridine | 120 mmol, 25.0 g | ClC1=NC=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C5H2ClN3O4
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
reactant | ethylene glycol | 70 ml | C(CO)O | C2H6O2
product | 2-(3,5-dinitro-2-pyridyloxy)ethanol | 101 mmol, 23.2g, yield: 82% | [N+](=O)([O-])C=1C(=NC=C(C1)[N+](=O)[O-])OCCO | C7H7N3O6
